US07605170B2
Potassium carbonate (659 mg, 4.27 mmol), phenylboronic acid (388 mg, 3.18 mmol), 2-bromo-4-fluorotoluene (0.20 mL, 1.59 mmol), and tetrakis(triphenylphosphine)palladium(0) (92 mg, 5mol %), in DME (3 mL) were sealed in a microwave vessel and heated at 80° C. for 1200s, then 120° C. for 1200s. Ethyl acetate (5 mL) was added and the reaction was filtered and concentrated in vacuo. The crude material was then purified by flash column chromatography on silica gel. Elution with 10:90 ethyl acetate:heptane afforded 3-fluoro-6-methylbiphenyl (253 mg, 1.36 mmol, 86%).

reactant | Potassium carbonate | 4.27 mmol, 659 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 3.18 mmol, 388 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-bromo-4-fluorotoluene | 1.59 mmol, 0.20 mL | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | heptane | CCCCCCC | C7H16
product | 3-fluoro-6-methylbiphenyl | 1.36 mmol, 253 mg, 86% | FC=1C=C(C(=CC1)C)C1=CC=CC=C1 | C13H11F
